US07531532B2
After adding tetrahydrofuran (2 ml) and methanol (2 ml) to 4-(2-dimethylaminoethyl)piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (94 mg) under a nitrogen atmosphere, 10% palladium-carbon (46 mg) was added, the atmosphere in the reaction vessel was replaced with hydrogen, and the mixture was stirred for 9 hours. The atmosphere in the reaction vessel was then replaced with nitrogen, and the catalyst was filtered and washed with methanol. The filtrate was concentrated under reduced pressure to provide a crude product of 4-(2-dimethylaminoethyl)piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (91 mg) as a pale yellow amorphous substance.

reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | 4-(2-dimethylaminoethyl)piperazine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 94 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN(C)C)C=CC(=C1)[N+](=O)[O-] | C19H24FN7O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 46 mg | [C].[Pd]
solvent | methanol | 2 ml | CO | CH4O
product | 4-(2-dimethylaminoethyl)piperazine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 91 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCN(CC2)CCN(C)C)C=C1)F | C19H26FN7O2
